US06184422B2
Preparation of (10E,12Z)-(S)-12-(5-Hydroxy-2-methylene-cyclohexylidene)-6,6-dimethyl-2-methyl-dodec-10-en-3-yn-2-ol
609 mg of 2,6,6-Trimethyl-10-(tetrahydro-pyran-2-yloxy)-dec-3-yn-2-ol (2.05 mmol) was dissolved in 13.5 ml of methanol, treated with 76 mg of pyridinium-(toluene-4-sulfonate) (0.15 eq.), and kept at room temperature for 1 night. The reaction mixture was then poured onto crushed ice/Na2CO3, extracted twice with ethylacetate, washed with brine, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/ethylacetate=7/3) produced 413 mg of the title compound as yellowish oil.

reactant | 2,6,6-Trimethyl-10-(tetrahydro-pyran-2-yloxy)-dec-3-yn-2-ol | 2.05 mmol, 609 mg | CC(C)(C#CCC(CCCCOC1OCCCC1)(C)C)O | C18H32O3
reactant | pyridinium-(toluene-4-sulfonate) | 76 mg, 0.15 eq. | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | methanol | 13.5 ml | CO | CH4O
product | (10E,12Z)-(S)-12-(5-Hydroxy-2-methylene-cyclohexylidene)-6,6-dimethyl-2-methyl-dodec-10-en-3-yn-2-ol | 413 mg | O[C@H]1CCC(\C(\C1)=C/C=C/CCCC(CC#CC(C)(O)C)(C)C)=C | C22H34O2
